US06420300B1
BuLi (1.6 M in hexane, 6.25 mL, 10 mmol) was added to a toluene solution (˜15 mL) of (Me2N)2C═NH (1.151 g, 10 mmol) at −78° C. The solution was warmed to 23° C. in 10 minutes and was further stirred for 30 minutes to give a toluene solution of (Me2N)2C═NLi (10 mmol).

reactant | BuLi | 10 mmol, 1.6 M, 6.25 mL | [Li]CCCC
reactant | (Me2N)2C═NH | 10 mmol, 1.151 g | C(N(C)C)(N(C)C)=N | C5H13N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ˜15 mL | C1(=CC=CC=C1)C | C7H8
product | (Me2N)2C═NLi | 10 mmol | C(N(C)C)(N(C)C)=N[Li] | InChI=1S/C5H12N3.Li/c1-7(2)5(6)8(3)4;/h1-4H3;/q-1;+1
